Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with hx asthma and HLD presenting with abdominal pain,
nausea, and vomiting for the past 6 days. 

Six days prior to admission, patient noted having dyspepsia and
diarrhea. He had ___ leftovers that were sitting in his
car in the heat for the afternoon. A few hours after consuming
the leftovers he started feeling gassy, followed by diarrhea.
Mixture of food particles and water. No blood in the stool.
Nauseous and vomited 4x, nonbloody nonbilious. Five hours later
went to ___ because concerned for food poisoning. 
Did
CT there and did not find anything concerning so discharged on
anti-nausea medication. Over the weekend patient could not eat 
or
drink anything because of nausea and abdominal pain. He reported
cramping pressure in the epigastric region, tender to palpation,
and worse with lying on his side and stomach. Not associated 
with
BMs and resolved diarrhea. Pain is worse after eating something,
feels like it gets stuck in upper abdomen. Vomited every time he
tried to go to sleep in order to comfortably lie on stomach. He
reports associated fevers, night sweats, chills, dizziness, and
burning in chest worse than usual (stopped taking PPI as seemed
to not be able to go down). Feels short of breath but has 
asthma,
says this is similar to previous episodes, takes inhaler at 
home.
No CP, palpitations, orthopnea, ___ edema, dysuria, hematuria,
bloody stools. Has not had BM since ___, not really passing
gas. Last emesis this morning. No sick contacts, travel to the
___ half year ago.

 
Past Medical History:
GERD
Asthma
Hyperlipidemia
 
Social History:
___
Family History:
Father CORONARY ARTERY DISEASE            
Mother COLON CANCER, HYPERTENSION, HYPERLIPIDEMIA, DIABETES TYPE 
II, MYOCARDIAL INFARCTION    
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T99.1, BP 148/100, HR 90, RR 18, PO2 97  
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

ENT: MMM. No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended; TTP diffusely, no
rebound tenderness
MSK: No spinous process tenderness. No CVA tenderness. 
EXT: No clubbing, cyanosis, or edema. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 24 HR Data (last updated ___ @ 705)
    Temp: 98.4 (Tm 99.9), BP: 108/67 (108-129/67-84), HR: 79
(79-87), RR: 18 (___), O2 sat: 97% (94-97), O2 delivery: Ra,
Wt: 245.59 lb/111.4 kg  
GENERAL: Alert and interactive. In no acute distress.
EYES: NCAT. PERRL, EOMI. Sclera anicteric and without injection. 

HEENT: MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended; no tenderness to
palpation, no rebound tenderness or guarding 
EXT: No clubbing, cyanosis, or edema. Pulses DP/Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.

 
Pertinent Results:
ADMISSION LABS
==============
___ 04:32PM   WBC-7.2 RBC-5.41 HGB-14.9 HCT-44.4 MCV-82 
MCH-27.5 MCHC-33.6 RDW-12.6 RDWSD-37.6
___ 04:32PM   NEUTS-60.7 ___ MONOS-8.2 EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-4.37 AbsLymp-2.20 AbsMono-0.59 
AbsEos-0.00* AbsBaso-0.03
___ 04:32PM   ALT(SGPT)-53* AST(SGOT)-40 ALK PHOS-65 TOT 
BILI-0.6
___ 04:32PM   GLUCOSE-106* UREA N-14 CREAT-1.2 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-97 TOTAL CO2-23 ANION GAP-19*

DISCHARGE LABS
==============
___ 05:00AM BLOOD WBC-5.6 RBC-4.80 Hgb-13.4* Hct-40.1 
MCV-84 MCH-27.9 MCHC-33.4 RDW-12.8 RDWSD-38.5 Plt ___
___ 05:00AM BLOOD Glucose-98 UreaN-16 Creat-1.2 Na-140 
K-4.3 Cl-103 HCO3-25 AnGap-12
___ 05:00AM BLOOD ALT-40 AST-25 AlkPhos-62 TotBili-0.3
___ 05:00AM BLOOD Calcium-8.8 Phos-4.5 Mg-2.4

PERTINENT STUDIES
=================
Barium swallow with small bowel follow through
- Normal double contrast upper GI series and barium tablet 
study.  No esophageal dysmotility, gastroparesis or gastric 
outlet obstruction. 

 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
================================= 
[] FOR PCP: ___ patient continues to have dysphagia symptoms, 
please consider referral to GI.
[] Please confirm if patient is able to consume normal diet 
post-discharge.
[] Barium swallow with small bowel follow through: normal.
MEDICATIONS: 
- New Meds: Metoclopramide PRN
- Stopped Meds: none
- Changed Meds: none

# CODE: Full Code presumed
# CONTACT: ___ (brother) ___

BRIEF HOSPITAL COURSE 
====================== 
___ M with hx GERD, asthma, and HLD presented with abdominal 
pain, nausea, and self-induced vomiting due to feeling of 
food/liquids getting stuck in his stomach for the past 6 days 
concerning for post-viral gastroparesis. He was given IVF and 
found to be able to tolerate soft diet without nausea/vomiting. 
GI consulted and recommended against EGD. Underwent barium 
swallow with small bowel follow through which was without 
abnormalities. He was discharged home without services and close 
GI follow up.

ACUTE ISSUES:
=============
# Abdominal pain
# Nausea, vomiting
Patient presented with cramping epigastric abdominal pain 
associated with nausea, vomiting. Seems to have been preceded by 
gastroenteritis-like symptoms with constitutional symptoms. Ddx 
includes gastroparesis possibly post-viral, in setting of 
bloating and not passing gas. Negative CT A/P on ___ at OSH. 
Not tolerating po intake for last 3 days prior to admission with 
tachycardia, dizziness, and inability to pass gas. GI 
recommended barium swallow with small bowel follow through which 
was without abnormalities. Discharged able to consume PO soft 
diet with plan for supportive management and PCP follow up. 

# Elevated ALT
Unclear etiology, possibly iso acute illness as above vs fatty 
liver disease. Elevated from 37 on ___, but resolved at time 
of discharge.

CHRONIC ISSUES:
===============
# Asthma: 
Continued albuterol, Advair, Flonase 

# GERD: 
Continued omeprazole 20mg BID
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB 
2. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1.  Metoclopramide 10 mg PO Q6H:PRN nausea 
RX *metoclopramide HCl 10 mg 1 tablet by mouth Q6h:PRN Disp #*15 
Tablet Refills:*0 
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  
3.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
4.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
5.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Post-viral gastroparesis

Secondary Diagnoses
===================
GERD
asthma
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear, Mr. ___, 
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for persistent nausea, vomiting.
 
What was done for me while I was in the hospital?  
- You were given IV fluids to help with hydration.
- You were started on a diet to assess your ability to eat.
- You underwent a study to determine if there was any 
obstruction in your stomach.

What should I do when I leave the hospital?  
- Please take your medications as prescribed.
- Please follow up with your physicians as noted in your 
discharge paperwork.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___